US05084457
To 32.6 g of isatoic anhydride in 150 ml of isopropyl alcohol was added 25 ml of n-propylamine portionwise as the reaction was exothermic. Evaporation of the solution gave 30 g of 2-amino-N-propylbenzamide as colorless crystals, mp 100°-102° C. To a stirred solution of 25.0 g of 2-amino-N-propylbenzamide in 300 ml of tetrahydrofuran was added 22.9 g of benzoylisothiocyanate over 10 minutes. After 2 hours the mixture was diluted with 100 ml of ether and was filtered to give 30.7 g of 2-[[benzoylamino)thioxomethyl]amino]-N-propylbenzamide, mp 172°-174° C. Then, to a solution of 10.2 g of 2-[[benzoylamino)thioxomethyl]amino]-N-propylbenzamide in 100 ml of dichloromethane was added 30 ml of 1N sodium hydroxide to form a two-phase mixture, and to this was added 20 ml of iodomethane and then 4 drops of benzyltrimethylammonium hydroxide solution. After stirring for 3 hours, the organic phase was separated and dried over anhydrous sodium sulfate. Filtration and evaporation of the filtrate gave 9.4 g of N-benzoyl-N'-(2-propylaminocarbonylphenyl)carbamimidothioic acid, methyl ester, mp 86°-89° C. To a solution of 7.10 g of this compound in 300 ml of anhydrous dioxane was added 1.45 g of 60% sodium hydride in mineral oil suspension and the mixture was refluxed for 5 hours. The reaction mixture was then poured into 1.5 liter of water and made acidic with hydrochloric acid. The crystals that formed were collected and recrystallized from ethyl acetate-hexane to give N-(3,4-dihydro-3-propyl-4oxo-2-quinazolinyl)benzamide as colorless crystals, mp 133°-135° C.

reactant | 2-amino-N-propylbenzamide | 25.0 g | NC1=C(C(=O)NCCC)C=CC=C1 | C10H14N2O
reactant | benzoylisothiocyanate | 22.9 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-propylbenzamide | C(CC)NC(C1=CC=CC=C1)=O | C10H13NO
